US08633173B2
N-(3-{[2-(4-Methanesulfonyl-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-pyridin-2-yl)-N-methyl-methanesulfonamide was prepared from N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide (75.0 mg, 0.204 mmol) and 4-methanesulfonyl-phenylamine (39.0 mg, 0.228 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.009 g, 9%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.43 (dd, J=4.6, 1.4 Hz, 1H), 7.92-7.83 (m, 4H), 7.76 (d, J=8.8 Hz, 2H), 7.29 (dd, J=7.7, 4.7 Hz, 1H), 7.12 (s, 1H), 6.74 (t, J=7.5 Hz, 1H), 6.38 (d, J=7.7 Hz, 1H), 5.37 (t, J=6.4 Hz, 1H), 4.78 (d, J=6.3 Hz, 2H), 3.33 (s, 3H), 3.10 (s, 3H), 3.05 (s, 3H). MS=502 (MH)+.

reactant | N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide | 0.204 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C14H15ClN6O2S
reactant | 4-methanesulfonyl-phenylamine | 0.228 mmol, 39.0 mg | CS(=O)(=O)C1=CC=C(C=C1)N | C7H9NO2S
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-(3-{[2-(4-Methanesulfonyl-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-pyridin-2-yl)-N-methyl-methanesulfonamide | CS(=O)(=O)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)NCC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C21H23N7O4S2
